US08283354B2
5-Fluoroindoline-2,3-dione
Concentrated sulfuric acid (200 mL) was heated at 50° C., and N-(4-fluorophenyl)-2-hydroxyiminoacetamide was slowly added. The black solution was carefully heated at 90° C. At this temperature, some slight cooling was necessary to keep the temperature at 90° C. When no more heat had developed, the reaction mixture was heated at 90° C. for an additional half hour. The dark-red solution was cooled to room temperature and poured onto 3 L ice water and 1 L ethyl acetate with vigorous stirring. The layers were separated, and the aqueous layer was extracted with ethyl acetate (1×1 L, 1×0.5 L). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated to dryness. Yield: 35.3 g (52%) of a dark red solid, 5-fluoro-1H-indole-2,3-dione.

reactant | sulfuric acid | 200 mL | S(O)(O)(=O)=O | H2O4S
reactant | N-(4-fluorophenyl)-2-hydroxyiminoacetamide | FC1=CC=C(C=C1)NC(C=NO)=O | C8H7FN2O2
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 5-Fluoroindoline-2,3-dione | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
